US06833378B2
[2-(4-chloro-2,6-dimethyl-phenylamino)-4-(1-ethyl-propoxy)-6-methyl-pyridin-3-yl]-methanol
To a solution of 4-(1-ethyl-propoxy)-6-methyl-2-(4-chloro-2,6-dimethyl-phenylamino)-nicotinic acid in dry THF was added BH3.DMS. The resulting mixture was heated at reflux overnight. The mixture was quenched with dilute HCl and stirred for 30 minutes, adjusted pH to 7.5-8.5, then extracted with ethyl acetate. The organic layer was separated, dried and concentrated to give a brown oil. After silica gel column chromatography, the title compound was obtained as a green oil. 1H NMR(CDCl3) d. 7.02(s,2H), 6.83(brs,1H), 4.78(s,2H), 4.14(m,1H), 2.2(s,3H), 2.13(s,6H), 1.66(m,4H), 0.93(9t,6H) ppm.

reactant | 4-(1-ethyl-propoxy)-6-methyl-2-(4-chloro-2,6-dimethyl-phenylamino)-nicotinic acid | C(C)C(CC)OC1=CC(=NC(=C1C(=O)O)NC1=C(C=C(C=C1C)Cl)C)C | C20H25ClN2O3
reactant | DMS | CSC | C2H6S
solvent | THF | C1CCOC1 | C4H8O
product | [2-(4-chloro-2,6-dimethyl-phenylamino)-4-(1-ethyl-propoxy)-6-methyl-pyridin-3-yl]-methanol | ClC1=CC(=C(C(=C1)C)NC1=NC(=CC(=C1CO)OC(CC)CC)C)C | C20H27ClN2O2
